US07064124B2
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-methoxybenzaldehyde
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzaldehyde (0.500 g, 1.45 mmol) was dissolved in ethanol (15 ml) and after adding thereto in sequence sodium hydroxide (0.064 g, 1.59 mmol) and dimethyl sulfate (0.200 g, 1.59 mmol), the solution was stirred at room temperature for 12 hours. After the completion of reaction, the reaction solution was poured into a cold diluted hydrochloric acid solution and extracted with ethyl acetate. The extract was washed with water and then dried, the solvent was removed by distillation and the obtained residue was purified by silica gel column chromatography (hexand:ethyl acetate=4:1) to obtain the titled compound (0.359 g, 0.998 mmol, 69%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzaldehyde | 1.45 mmol, 0.500 g | COC=1C(=C(CC=2C=CC(=C(C=O)C2)O)C(=C(C1OC)OC)OC)C | C19H22O6
reactant | sodium hydroxide | 1.59 mmol, 0.064 g | [OH-].[Na+]
reactant | dimethyl sulfate | 1.59 mmol, 0.200 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-methoxybenzaldehyde | 0.998 mmol, 0.359 g, 69% | COC=1C(=C(CC=2C=CC(=C(C=O)C2)OC)C(=C(C1OC)OC)OC)C | C20H24O6
